US05981529
A mixture of Intermediate 3 (0.31 g, 1.0 mmol), 2-(4-fluorophenyl)propyl bromide (0.228 g, 1.05 mmol), triethylamine (0.202 g, 2.0 mmol) and sodium iodide (0.165 g, 1.1 mmol), in DMF (20 ml) was heated at 90° C., with stirring, for 16 h. The mixture was cooled to room temperature and partitioned between dichloromethane and water. The CH2Cl2 layer was separated, dried (Na2SO4) and evaporated under vacuum. The crude product was chromatographed through silica gel eluting with CH2Cl2 /MeOH/NH3 (90:10:1) to give the title-indole (0.125 g, 28%). The 3.0 hydrogen oxalate monohydrate salt was prepared, mp 203-205° C., (Found: C, 52.11; H, 5.60; N, 11.45. C26H31N6F. 3.0 (C2H2O4) 1.0H2O requires C, 52.31; H, 5.35; N, 11.44%), δ(360 MHz, D6 -DMSO) 1.17 (3H, d, J=6.8 Hz, Me), 1.92-2.06 (2H, m, CH2), 2.44-3.26 (15H, m, 7 of CH2 and CH), 7.08-7.13 (2H, m, Ar--H), 7.26-7.33 (4H, m, Ar--H), 7.50 (1H, d, J=8.6 Hz, Ar--H), 7.78 (1H, d, J=1.5 Hz, Ar--H), 9.01 (2H, s, Ar--H), 11.16 (1H, s, NH).

reactant | 2-(4-fluorophenyl)propyl bromide | 1.05 mmol, 0.228 g | FC1=CC=C(C=C1)C(CBr)C | C9H10BrF
reactant | triethylamine | 2.0 mmol, 0.202 g | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.1 mmol, 0.165 g | [I-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | indole | 0.125 g, 28% | N1C=CC2=CC=CC=C12 | C8H7N
